US06521754B2
Furan-2-carboxylic acid (4,6-difluoro-benzothiazol-2-yl)-amide
Using 2-amino-4,6-difluoro-benzothiazole and furan-2-carboxylicacid chloride the title compound was prepared as a grey solid (81% yield), MS: m/e=280 (M+).

reactant | 2-amino-4,6-difluoro-benzothiazole | NC=1SC2=C(N1)C(=CC(=C2)F)F | C7H4F2N2S
reactant | furan-2-carboxylicacid chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | Furan-2-carboxylic acid (4,6-difluoro-benzothiazol-2-yl)-amide | FC1=CC(=CC2=C1N=C(S2)NC(=O)C=2OC=CC2)F | C12H6F2N2O2S
